US07723330B2
Step A: Preparation of 5-(3-fluoro-4-(3-(4-fluorophenyl)-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-3-methyl-2-(phenylamino)pyrimidin-4(3H)-one:
A suspension of 5-(3-fluoro-4-(3-iodo-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-3-methyl-2-(phenylamino)pyrimidin-4(3H)-one (0.025 g, 0.0371 mmol; prepared according to the procedure of Example 86, Step E), 4-fluorophenylboronic acid (0.006 g, 0.04 mmol), Pd(PPh3)4 (0.002 g, 0.002 mmol) and lithium chloride (0.006 g, 0.15 mmol) in dioxane (1 mL) and 2 M aqueous Na2CO3 (1 mL) was stirred at 110° C. for 35 minutes and then at ambient temperature overnight. The reaction mixture was partitioned between EtOAc and H2O. The layers were separated and the aqueous layer was re-extracted with EtOAc. The combined organic layers were dried over Na2SO4, filtered and concentrated to yield 0.031 g crude product as a yellow gum. The crude material was used without further purification in the following step. LRMS (APCI pos) m/e 643 (M+1).

reactant | 5-(3-fluoro-4-(3-iodo-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-3-methyl-2-(phenylamino)pyrimidin-4(3H)-one | FC=1C=C(C=CC1OC1=C2C(=NC=C1)N(N=C2I)CC2=CC=C(C=C2)OC)C=2C(N(C(=NC2)NC2=CC=CC=C2)C)=O | C31H24FIN6O3
reactant | 4-fluorophenylboronic acid | 0.04 mmol, 0.006 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | lithium chloride | 0.15 mmol, 0.006 g | [Cl-].[Li+]
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | Na2CO3 | 2 M, 1 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.002 mmol, 0.002 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(3-fluoro-4-(3-(4-fluorophenyl)-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-3-methyl-2-(phenylamino)pyrimidin-4(3H)-one | 0.031 g | FC=1C=C(C=CC1OC1=C2C(=NC=C1)N(N=C2C2=CC=C(C=C2)F)CC2=CC=C(C=C2)OC)C=2C(N(C(=NC2)NC2=CC=CC=C2)C)=O | C37H28F2N6O3
